US08729078B2
In a 25 mL round-bottomed flask, 6-bromo-1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (14 mg, 25.6 μmol) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (110 μg, 0.256 μmol, Eq: 0.01) were combined with Ethanol (2.99 ml) and Water (2.99 ml) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h. The crude reaction mixture was concentrated in vacuo. Purification by HPLC gave 6-bromo-1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (11 mg, 77%, [M+H]+ 565).

reactant | 6-bromo-1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 25.6 μmol, 14 mg | BrC1=CC=C2C(=N1)N(C=C2C#N)C2=C(C(=CC=C2)N2C(C1=C(C=C(C=C1C=N2)C(C)(C)C)F)=O)CO | C27H21BrFN5O2
reactant | Ethanol | 2.99 ml | C(C)O | C2H6O
solvent | Water | 2.99 ml | O | H2O
product | 6-bromo-1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 11 mg, 77% | BrC1=CC=C2C(=N1)N(C=C2C(=O)N)C2=C(C(=CC=C2)N2C(C1=C(C=C(C=C1C=N2)C(C)(C)C)F)=O)CO | C27H23BrFN5O3
